US09382218B2
N-(4′-amino-2′-chloro-6′-(trifluoromethyl)biphenyl-3-yl)methanesulfonamide
A mixture of 4-bromo-3-chloro-5-(trifluoromethyl)aniline (573 mg, 2.09 mmol, Eq: 1.00), 3-(methylsulfonamido)phenylboronic acid (529 mg, 2.46 mmol, Eq: 1.18) and tetrakis(triphenylphosphine)palladium (0) (211 mg, 183 μmol, Eq: 0.0875) was degassed (vacuum/nitrogen cycles) then degassed dioxane (6.87 ml) (nitrogen bubbling with sonication) and a degassed (nitrogen bubbling with sonication) 2M solution of sodium carbonate in water (1.83 ml, 3.66 mmol, Eq: 1.75) were added. The mixture was stirred at 100° C. for 18 h. The reaction mixture was adsorbed unto silica (2 g), concentrated and purified on silica gel (silica 40 g, dichloromethane/ethyl acetate 100:0 to 80:20) to give 574 mg (75%) of the desired product as a yellow solid.

reactant | 4-bromo-3-chloro-5-(trifluoromethyl)aniline | 2.09 mmol, 573 mg | BrC1=C(C=C(N)C=C1C(F)(F)F)Cl | C7H4BrClF3N
reactant | 3-(methylsulfonamido)phenylboronic acid | 2.46 mmol, 529 mg | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 3.66 mmol, 1.83 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 183 μmol, 211 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(4′-amino-2′-chloro-6′-(trifluoromethyl)biphenyl-3-yl)methanesulfonamide | 574 mg, 75% | NC1=CC(=C(C(=C1)C(F)(F)F)C1=CC(=CC=C1)NS(=O)(=O)C)Cl | C14H12ClF3N2O2S
